US07834181B2
2-Fluoro-8-(6-iodo-benzo[1,3]dioxol-5-ylmethyl)-9-(3-isopropylamino-propyl) adenine:
A solution of 2-Fluoro-8-(6-iodo-benzo[1,3]dioxol-5-ylmethyl)adenine (300 mg, 0.726 mmol), Cs2CO3 (285 mg, 0.87 mmol) and 1,3-dibromopropane (370 L, 3.63 mmol) in anhydrous DMF (5 mL) was stirred at 50° C. for 2 h. Following solvent removal, product (330 mg, 85%) was collected through silica gel column purification (CHCl3 then EtOAc:hexanes:CHCl3:i-PrOH at 4:2:4:0.4). MS m/z 534.0 (M+H)+. To this product, i-PrNH2 (10 mL) was added in excess and the resulting solution stirred at room temperature for 1 h. Excess amine was removed and product (230 mg, 75%) collected through silica gel column purification (CHCl3:EtOAc:i-PrOH:NH4OH at 4:4:2:0.3). 1H NMR (400 MHz, CDCl3) 7.29 (s, 1H), 6.59 (s, 1H), 5.94 (s, 2H), 5.89 (bs, 2H), 4.25 (s, 2H), 4.11 (t, J=7.0 Hz, 2H), 2.73-2.60 (m, 1H), 2.55 (t, J=6.8 Hz, 1H), 1.93-1.86 (m, 2H), 1.03-1.02 (d, J=6.0 Hz, 6H); 13C NMR (100 MHz, methanol-d4) 160.0, 158.4, 157.2, 152.4, 151.3, 149.4, 148.4, 133.1, 118.7, 110.6, 102.4, 88.5, 42.8, 40.1, 38.8, 27.6, 19.4; MS m/z 513.2 (M+H)+. HPLC: (a) 98.5% (60% water-40% acetonitrile); (b) 97.2% (20% to 50% acetonitrile).

reactant | 2-Fluoro-8-(6-iodo-benzo[1,3]dioxol-5-ylmethyl)adenine | 0.726 mmol, 300 mg | FC1=NC(=C2NC(=NC2=N1)CC1=CC2=C(OCO2)C=C1I)N | C13H9FIN5O2
reactant | Cs2CO3 | 0.87 mmol, 285 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 1,3-dibromopropane | 3.63 mmol, 370 L | BrCCCBr | C3H6Br2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-Fluoro-8-(6-iodo-benzo[1,3]dioxol-5-ylmethyl)-9-(3-isopropylamino-propyl) adenine | FC1=NC(=C2N=C(N(C2=N1)CCCNC(C)C)CC1=CC2=C(OCO2)C=C1I)N | C19H22FIN6O2
